US09255094B2
Preparation of 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(4-fluorophenyl)ethanone (Compound No. 1-39)
To a solution of 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (7 g, 0.032 mol) in 3 mL of NMP, KOH (12.7 g, 0.226 mol) was added at RT. The reaction mixture was stirred well at RT for 20 min. Then a solution of 2-bromo-1-(4-fluorophenyl)ethanone (6.5 g, 0.032 mol) in 2 mL NMP was added dropwise into the reaction mixture at RT over 2-4 h. The reaction was monitored by LCMS and TLC. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The residue obtained was purified by column chromatography, providing the desired product (1.2 g, 11.02%). 1HNMR (CDCl3, TFA salt) d (ppm): 8.18-8.01 (m, 2H), 7.71 (s, 1H), 7.30 (s, 1H), 7.22-7.10 (m, 2H), 7.00 (d, 1H), 3.60-3.31 (m, 4H), 3.20-3.06 (m, 2H), 2.85-2.70 (m, 2H), 2.45 (s, 6H).

reactant | 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.032 mol, 7 g | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | KOH | 0.226 mol, 12.7 g | [OH-].[K+]
reactant | 2-bromo-1-(4-fluorophenyl)ethanone | 0.032 mol, 6.5 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(4-fluorophenyl)ethanone | 1.2 g, 11.02% | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(=O)C2=CC=C(C=C2)F)CC1 | C21H21FN2O
